US07307099B2
1-benzenesulfonyl-5-methoxy-1H-indole
The title compound was prepared from benzene sulfonyl chloride and 5-methoxy-1H-indole, according to Method A, described above. Yield 67%; mp 73-75° C.; 1H NMR (CDCl3) δ 7.55-7.82 (m, 3H), 7.41-7.48 (m, 2H), 7.31-7.37 (m, 2H), 6.83-6.90 (m, 2), 6.51-6.52 (dd, J=4 Hz, 1H); 13C NMR (CDCl3) δ 156.9, 138.6, 134.2, 132.2, 129.9, 129.6, 127.5, 127.1, 114.8, 114.2, 109.8, 104.1, 56.0; MS (ES+) m/z 287.99 (M++1).

reactant | benzene sulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 5-methoxy-1H-indole | COC=1C=C2C=CNC2=CC1 | C9H9NO
product | 1-benzenesulfonyl-5-methoxy-1H-indole | Yield 67% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)OC | C15H13NO3S
